US08957205B2
1-[[[4-(4-Propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid hydrochloride
3 ml of 4N hydrochloric acid was added to 600 mg (1.55 mmol) of 1-[[[4-(4-propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester, and the mixture was refluxed under heating for 6 hours. The precipitated crystal obtained by cooling it to room temperature was collected by filtration to obtain 258 mg (41%) of the title compound.

reactant | hydrochloric acid | 4N, 3 ml | Cl | ClH
reactant | 1-[[[4-(4-propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid methyl ester | 1.55 mmol, 600 mg | COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)N1CCN(CC1)CCC | C22H33N3O3
product | 1-[[[4-(4-Propylpiperazin-1-yl)phenyl]carbonyl]amino]cyclohexanecarboxylic acid hydrochloride | 258 mg, 41% | Cl.C(CC)N1CCN(CC1)C1=CC=C(C=C1)C(=O)NC1(CCCCC1)C(=O)O | InChI=1S/C21H31N3O3.ClH/c1-2-12-23-13-15-24(16-14-23)18-8-6-17(7-9-18)19(25)22-21(20(26)27)10-4-3-5-11-21;/h6-9H,2-5,10-16H2,1H3,(H,22,25)(H,26,27);1H
